US07989438B2
Step 10: methyl (7R)-7-azido-14-cyclohexyl-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl (7S)-14-cyclohexyl-7-hydroxy-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate was dissolved in THF (60 mM) and PPh3 (1.2 eq) was added. The solution was cooled to 0° C. and treated with DIPEA (1 eq), followed by slow addition of DIAD (1.2 eq). The mixture was left stirring at this temperature for 5 min, then a solution of DPPA in THF (1.2 eq) was added dropwise. After complete addition the mixture was stirred at 0° C. for further 30 min, then stirring was continued at RT. Since no reaction was observed after 1 h more PPh3 in THF (1.2 eq), DIAD in THF (1.2 eq) and DPPA in THF (0.6 eq) were added at RT. The formation of a precipitate was observed. Stirring was continued for 1 h at RT after which time HPLC-MS indicated complete conversion. The mixture was used without further treatment in the next reaction (quant). (ES+) m/z 538 (M+H)+.

reactant | Methyl (7S)-14-cyclohexyl-7-hydroxy-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC(=C3)OCC3=NC=CC=C3)O)C(=O)OC | C31H32N2O5
reactant | PPh3 | 1.2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIPEA | 1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 60 mM | C1CCOC1 | C4H8O
solvent | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 0.6 eq | C1CCOC1 | C4H8O
solvent | THF | 1.2 eq | C1CCOC1 | C4H8O
solvent | THF | 1.2 eq | C1CCOC1 | C4H8O
solvent | THF | 1.2 eq | C1CCOC1 | C4H8O
solvent | DIAD | 1.2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | methyl (7R)-7-azido-14-cyclohexyl-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | N(=[N+]=[N-])[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC(=C2)OCC2=NC=CC=C2 | C31H31N5O4
